US07078425B2
6-Chloro-7-methoxy-4-methyl-1H-indazole (1.55 g, 9.2 mmol) is dissolved in THF (50 mL) and cooled to 0° C. Sodium hydride (60% in mineral oil, 0.40 g, 10 mmol) is added and the reaction is stirred 10 min. Benzenesulfonyl chloride (1.2 mL, 9.7 mmol) is added and the reaction is stirred 20 min. The reaction is diluted with EtOAc, washed with a solution of NH4Cl, water, brine and dried with MgSO4. The solution is concentrated and triturated with hexane to provide 1-benzenesulfonyl-6-chloro-7-methoxy-4-methyl-1H-indazole which is used without further purification.

reactant | 6-Chloro-7-methoxy-4-methyl-1H-indazole | 9.2 mmol, 1.55 g | ClC1=CC(=C2C=NNC2=C1OC)C | C9H9ClN2O
reactant | Sodium hydride | 10 mmol, 0.40 g | [H-].[Na+]
reactant | Benzenesulfonyl chloride | 9.7 mmol, 1.2 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-benzenesulfonyl-6-chloro-7-methoxy-4-methyl-1H-indazole | C1(=CC=CC=C1)S(=O)(=O)N1N=CC2=C(C=C(C(=C12)OC)Cl)C | C15H13ClN2O3S
